US07429581B2
(v) 1-[(5-Chloro-pyridin-2-ylcarbamoyl)-methyl]-5-[2-(2-methoxy-ethoxy)-ethoxymethyl]-1H-pyrazole-3-carboxylic acid (1-isopropyl-piperidin-4-yl)-amide
To 400 mg 1-[(5-Chloro-pyridin-2-ylcarbamoyl)-methyl]-5-[2-(2-methoxy-ethoxy)-ethoxymethyl]-1H-pyrazole-3-carboxylic acid in 5 ml DCM and 0.3 ml NEt3, 217 mg 1-Isopropyl-piperidin-4-ylamine hydrochloride and 250 mg BOP-Cl were added at RT and the rmixture was stirred for 16 h. The mixture was concentrated under reduced pressure and the residue was purified by preparative HPLC (C18 reverse phase column, elution with a H2O/MeCN gradient with 0.1% TFA). The fractions containing the product were evaporated and lyophilized to yield a white solid.

reactant | 1-[(5-Chloro-pyridin-2-ylcarbamoyl)-methyl]-5-[2-(2-methoxy-ethoxy)-ethoxymethyl]-1H-pyrazole-3-carboxylic acid | 400 mg | ClC=1C=CC(=NC1)NC(=O)CN1N=C(C=C1COCCOCCOC)C(=O)O | C17H21ClN4O6
reactant | 1-Isopropyl-piperidin-4-ylamine hydrochloride | 217 mg | Cl.C(C)(C)N1CCC(CC1)N
reactant | BOP-Cl | 250 mg | C1COC(=O)N1P(=O)(N2CCOC2=O)Cl | C6H8ClN2O5P
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
solvent | NEt3 | 0.3 ml | CCN(CC)CC | C6H15N
product | 1-[(5-Chloro-pyridin-2-ylcarbamoyl)-methyl]-5-[2-(2-methoxy-ethoxy)-ethoxymethyl]-1H-pyrazole-3-carboxylic acid (1-isopropyl-piperidin-4-yl)-amide | C(C)(C)N1CCC(CC1)NC(=O)C1=NN(C(=C1)COCCOCCOC)CC(NC1=NC=C(C=C1)Cl)=O | C25H37ClN6O5
